US07425642B2
Methyl 2-(3-bromobenzyloxy)-2-methylpropionate
To a solution of methyl 2-hydroxyisobutyrate (1 g, 4.0 mmol) in THF (20 ml) was added sodium hydride (60% in parafin liquid) (115 mg, 4.8 mmol) at 0° C., and the mixture was stirred at room temperature for 15 minutes. To the mixture was added 3-bromobenzyl bromide (567 mg, 4.8 mmol), and the mixture was stirred at 50° C. for 12 hours. To the reaction solution was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give the title compound (520 mg, 52%).

reactant | methyl 2-hydroxyisobutyrate | 4.0 mmol, 1 g | OC(C(=O)OC)(C)C | C5H10O3
reactant | sodium hydride | 4.8 mmol, 115 mg | [H-].[Na+]
reactant | 3-bromobenzyl bromide | 4.8 mmol, 567 mg | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 2-(3-bromobenzyloxy)-2-methylpropionate | 520 mg, 52% | BrC=1C=C(COC(C(=O)OC)(C)C)C=CC1 | C12H15BrO3
